US08871934B2
4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrazol-1-yl]-butyric acid ethyl ester
4,4,5,5-Tetramethyl-2-(1H-pyrazol-4-yl)-1,3,2-dioxaborolane (25.0 g), dimethylformamide (200 ml), potassium carbonate (44.5 g) and ethyl 4-bromobutyrate (36.9 ml) were mixed at room temperature and stirred at 75° C. for 6 hr. The reaction mixture was cooled to room temperature, and the insoluble material was filtered off through celite. To the filtrate was added water (150 ml) and the mixture was extracted twice with ethyl acetate (100 ml, 50 ml). To the aqueous layer was added water (100 ml) again and the mixture was extracted twice with ethyl acetate (50 ml). To the combined organic layer was added n-hexane (100 ml), and the mixture was washed 3 times with water (100 ml) and once with saturated brine, dried over anhydrous sodium sulfate, and filtered. The filtrate was concentrated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate-5/1 to 1/1) to give the title compound (33.4 g, 84%).

reactant | 4,4,5,5-Tetramethyl-2-(1H-pyrazol-4-yl)-1,3,2-dioxaborolane | 25.0 g | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
reactant | potassium carbonate | 44.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 4-bromobutyrate | 36.9 ml | BrCCCC(=O)OCC | C6H11BrO2
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrazol-1-yl]-butyric acid ethyl ester | 33.4 g, 84% | C(C)OC(CCCN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C)=O | C15H25BN2O4
